US06777409B2
2-(5-Fluoro-2-trifluoromethylphenyl)-acetonitrile
1.95 g (30 mmol) of potassium cyanide is added to a solution of 5.14 g (20 mmol) of 5-fluoro-2-trifluoromethylbenzyl bromide in 45 ml of ethanol/8 ml of water, and it is stirred for 64 hours at room temperature. The reaction solution is diluted with ethyl acetate and extracted with saturated sodium bicarbonate solution. The organic phase is washed with water, dried and concentrated by evaporation. The remaining residue is purified by bulb tube distillation and recrystallized. Yield: 3.6 g (89%).

reactant | potassium cyanide | 30 mmol, 1.95 g | [C-]#N.[K+]
reactant | 5-fluoro-2-trifluoromethylbenzyl bromide | 20 mmol, 5.14 g | FC=1C=CC(=C(CBr)C1)C(F)(F)F | C8H5BrF4
reactant | water | O | H2O
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Fluoro-2-trifluoromethylphenyl)-acetonitrile | FC=1C=CC(=C(C1)CC#N)C(F)(F)F | C9H5F4N
